US08242125B2
109-D. 5-(5,6,7,8-Tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-cyano-5-trifluoromethyl-phenyl)-amide
A solution of 4-[1-(3-cyano-5-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester (132 mg, 0.28 mmol) in DCM (2 mL) and TFA (2 mL) is stirred at room temperature for 2 h. The reaction is concentrated in vacuo and purified via semi-prep HPLC (C18; 10-100% I/H2O with 0.1% NH4OH) to give the title compound. MS (ESI) m/z 479.0 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 8.38-8.42 (m, 2H), 8.35 (s, 1H), 8.28 (d, J=8.8 Hz, 1H), 8.07-8.12 (m, 2H), 7.47 (d, J=2.3 Hz, 1H), 7.14 (dd, J=8.8, 2.3 Hz, 1H), 6.83 (d, J=3.3 Hz, 1H), 3.85 (s, 2H), 3.06 (t, J=5.8 Hz, 2H), 2.74 (t, J=5.7 Hz, 2H).

reactant | 4-[1-(3-cyano-5-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.28 mmol, 132 mg | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC(=C1)C(F)(F)F)C#N)=O | C29H25F3N6O4
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(5,6,7,8-Tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-cyano-5-trifluoromethyl-phenyl)-amide | C(#N)C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNCC2 | C24H17F3N6O2
